### PR TITLE
feat(Analysis/Asymptotics): define subpolynomial growth

### PR DESCRIPTION
**Pull request by 0xTerencePrime**
## Main definitions

* `Asymptotics.IsSubpolynomial l f g`: A function `f` has subpolynomial growth with respect to `g` along filter `l` if `f = O(1 + ‖g‖^k)` for some natural `k`.

## Main results

* `IsSubpolynomial.const`: Constant functions have subpolynomial growth
* `IsSubpolynomial.id`: Identity has subpolynomial growth  
* `IsSubpolynomial.add`: Closure under addition
* `IsSubpolynomial.neg`: Closure under negation
* `IsSubpolynomial.sub`: Closure under subtraction
* `IsSubpolynomial.mul`: Closure under multiplication
* `IsSubpolynomial.pow`: Closure under powers
* `isSubpolynomial_iff_one_add`: Equivalence with `(1 + ‖g‖)^k` formulation
* `IsSubpolynomial.uniform`: Uniform bounds for finite families

## Implementation notes

The definition uses `1 + ‖g‖^k` rather than `(1 + ‖g‖)^k` as the primary form, with the equivalence established in `isSubpolynomial_iff_one_add`. Four private auxiliary lemmas handle the key inequalities needed for closure proofs.

Closes #32658

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 1]
```diff
@@ -0,0 +1,288 @@
+/-
+Copyright (c) 2024 0xTerencePrime. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: 0xTerencePrime
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Could you please use your real-world (*) name here? Thanks!

(*) Feel free to use your preferred name over the "institutional" one, but it should be a name you use IRL rather than a nickname.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 2]
```diff
@@ -0,0 +1,288 @@
...
+## Main results
+
+* `IsSubpolynomial.add`: Subpolynomial functions are closed under addition.
+* `IsSubpolynomial.mul`: Subpolynomial functions are closed under multiplication.
+* `IsSubpolynomial.pow`: Subpolynomial functions are closed under powers.
+* `isSubpolynomial_iff_one_add`: Equivalent characterization using `(1 + ‖g‖)^k`.
+
+## References
+
+* Issue: https://github.com/leanprover-community/mathlib4/issues/32658
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: I don't think this is worth referencing in the comments.

**Review by ADedecker — APPROVED** [review]
Thanks for your work!

I'm sorry for leaving this aside for so long, I was away from my computer for the holidays. I will give this a closer look in the following days, but here is a first general comment:

I think I made your life a lot more painful than necessary by suggesting to use `1 + ‖g‖^k` instead of `(1 + ‖g‖)^k`. For some reason I thought this was more natural, but the pain you had to go through shows that `(1 + ‖g‖)^k` is better because `1 + ‖g‖ ≥ 1` so you can avoid a lot of precise computations (e.g, if `k ≤ n`, one directly has `(1 + ‖g‖)^k ≤ (1 + ‖g‖)^n`).

In the end both do end up being equivalent, but I think that the theory should be developed using the more convenient form; would you mind refactoring your code to fit with this? Sorry again for the extra trouble, I definitely should have thought a bit more while writing the issue...

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 1 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Done.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 2 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Removed.

**Comment by 0xTerencePrime** [comment]
Refactored to use (1 + ‖g‖)^k as suggested. The proofs are now significantly simpler.

-awaiting-author

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 3]
```diff
@@ -0,0 +1,220 @@
...
+* `Asymptotics.IsSubpolynomial`: A function `f` has subpolynomial growth with respect to `g`
+  along filter `l` if `f = O((1 + ‖g‖)^k)` for some natural `k`.
+
+## Main results
+
+* `IsSubpolynomial.const`: Constant functions are subpolynomial.
+* `IsSubpolynomial.id`: The norm of the reference function is subpolynomial.
+-/
+
+open Filter Asymptotics
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean:37]:
```suggestion
@[expose] public section
open Filter Asymptotics
```
This way, you can remove all the `public` modifiers below

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 4]
```diff
@@ -0,0 +1,220 @@
...
+
+/-- A constant function has subpolynomial growth. -/
+public theorem IsSubpolynomial.const (l : Filter α) (c : E) (g : α → F) :
+    IsSubpolynomial l (fun _ => c) g := by
+  use 0
+  simp only [pow_zero]
+  exact isBigO_const_const c (by norm_num : (1 : ℝ) ≠ 0) l
+
+/-- The function `x ↦ ‖g x‖` has subpolynomial growth with respect to `g`. -/
+public theorem IsSubpolynomial.id (l : Filter α) (g : α → F) :
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: I think this should be called `IsSubpolynomial.self`, and be stated as `IsSubpolynomial l g g`.

Regarding `g` vs `fun x => ‖g x‖`, I would suggest adding lemmas analogous to [Asymptotics.isBigO_norm_left](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/Defs.html#Asymptotics.isBigO_norm_left) and [Asymptotics.isBigO_norm_right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/Defs.html#Asymptotics.isBigO_norm_right)

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 5]
```diff
@@ -0,0 +1,220 @@
...
+    IsSubpolynomial l (fun x => ‖g x‖) g := by
+  use 1
+  simp only [pow_one]
+  apply IsBigO.of_bound 1
+  filter_upwards with x
+  simp only [Real.norm_eq_abs, one_mul]
+  rw [abs_of_nonneg (norm_nonneg _)]
+  rw [abs_of_pos (by linarith [norm_nonneg (g x)] : 0 < 1 + ‖g x‖)]
+  linarith [norm_nonneg (g x)]
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]:
```suggestion
  apply IsBigO.of_norm_le
  simp [pow_one]
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 6]
```diff
@@ -0,0 +1,220 @@
...
+    rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k)]
+    exact pow_mono_height (norm_nonneg _) (le_max_left _ _)
+  have h2 : IsBigO l (fun x => (1 + ‖g x‖) ^ k₂) (fun x => (1 + ‖g x‖) ^ k) := by
+    apply IsBigO.of_bound 1
+    filter_upwards with x
+    simp only [Real.norm_eq_abs, one_mul]
+    rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k₂)]
+    rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k)]
+    exact pow_mono_height (norm_nonneg _) (le_max_right _ _)
+  exact (hk₁.trans h1).add (hk₂.trans h2)
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Taking inspiration from [Asymptotics.isBigO_iff_eventually_isBigOWith](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/Defs.html#Asymptotics.isBigO_iff_eventually_isBigOWith), I suggest adding the following:
```lean
theorem isSubpolynomial_iff_eventually_isBigO {l : Filter α} {f : α → E} {g : α → F} :
    IsSubpolynomial l f g ↔ ∀ᶠ k in atTop, IsBigO l f (fun x => (1 + ‖g x‖) ^ k) := by
  refine ⟨fun ⟨k, hk⟩ ↦ ?_, fun H ↦ H.exists⟩
  rw [eventually_atTop]
  use k
  intro n hkn
  refine hk.trans_le fun x ↦ ?_
  simp (discharger := positivity) only [Real.norm_of_nonneg]
  bound
```
This means that all the "picking an order that works for both f₁ and f₂" thing can be done using `filter_upwards`, giving the following proof:
```suggestion
  rw [isSubpolynomial_iff_eventually_isBigO] at *
  filter_upwards [hf₁, hf₂] with k hkf₁ hkf₂ using hkf₁.add hkf₂
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 7]
```diff
@@ -0,0 +1,220 @@
...
+  calc ‖f i x‖
+      ≤ C_fun i * ‖(1 + ‖g x‖) ^ k_fun i‖ := hx
+    _ ≤ C * ‖(1 + ‖g x‖) ^ k_fun i‖ :=
+        mul_le_mul_of_nonneg_right hC_le (norm_nonneg _)
+    _ ≤ C * ‖(1 + ‖g x‖) ^ k‖ := by
+        apply mul_le_mul_of_nonneg_left _ h0C
+        simp only [Real.norm_eq_abs]
+        rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) _)]
+        rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) _)]
+        exact pow_le_pow_right₀ (by linarith [norm_nonneg (g x)]) hk_le
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: You can also use some `filter_upwards` magic here:
```suggestion
/-- For a finite family of subpolynomial functions, one can choose a uniform degree and constant. -/
public theorem IsSubpolynomial.uniform {ι : Type*} {s : Finset ι} {l : Filter α}
    {f : ι → α → E} {g : α → F}
    (hf : ∀ i ∈ s, IsSubpolynomial l (f i) g) :
    ∃ k : ℕ, ∃ C ≥ 0, ∀ i ∈ s, IsBigOWith C l (f i) (fun x => (1 + ‖g x‖) ^ k) := by
  simp_rw [isSubpolynomial_iff_eventually_isBigO, isBigO_iff_eventually_isBigOWith,
    ← eventually_all_finset] at hf
  obtain ⟨k, hk⟩ := hf.exists
  obtain ⟨C, C_nonneg, hC⟩ := (eventually_ge_atTop 0).and hk |>.exists
  use k, C
```

Note that I also changed the statement to include `C ≥ 0`, which is useful sometimes.

**Review by ADedecker — COMMENTED** [review]
Here is a first round of comments on the new version. These are quite heavy golfs, but keep in mind that these ideas come from 1) experience and 2) looking at similar things in the library. For example, seeing [Asymptotics.isBigO_iff_eventually_isBigOWith](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Asymptotics/Defs.html#Asymptotics.isBigO_iff_eventually_isBigOWith) pop up in some existing proof made me realize that we should use something similar here.

A global remark: all of your lemmas include some filter `l`, and most of them also talk about the two functions `f` and `g`. Could you move them to `variables`? Note that you can still make them explicit by doing `variable (l) in` before a theorem/def.

Do not hesitate to ask for more details and explanations!

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 8]
```diff
@@ -0,0 +1,220 @@
...
+      filter_upwards with x
+      simp only [Real.norm_eq_abs]
+      rw [abs_of_pos (by linarith [pow_nonneg (norm_nonneg (g x)) k] : 0 < 1 + ‖g x‖ ^ k)]
+      rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k)]
+      exact one_add_pow_le_two_mul_add_one_pow (norm_nonneg _) k
+    exact hk.trans hbound
+
+/-- For a finite family of subpolynomial functions, one can choose a uniform degree and constant. -/
+public theorem IsSubpolynomial.uniform {ι : Type*} {s : Finset ι} {l : Filter α}
+    {f : ι → α → E} {g : α → F}
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: The fact that all the `f i`s have the same codomain should play no role here, could you take `{f : Π i : ι, α → E i}` instead? This should change nothing to the proof.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 3 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean:37]: Done.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 4 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Done. Renamed to self and added norm_left and norm_right.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 5 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Applied.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 6 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Done. Added isSubpolynomial_iff_eventually_isBigO and simplified the proof.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 7 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Applied. Also generalized to polymorphic E.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean (hunk 8 above)
Comment (0xTerencePrime) [reply Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Done.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 9]
```diff
@@ -0,0 +1,184 @@
...
+  | succ n ih => simp only [pow_succ]; exact ih.mul hf
+
+/-! ### Equivalence with the old definition -/
+
+/-- Auxiliary lemma: `1 + x^k ≤ 2 * (1 + x)^k` for `x ≥ 0`. -/
+private lemma one_add_pow_le_two_mul_add_one_pow {x : ℝ} (hx : 0 ≤ x) (k : ℕ) :
+    1 + x ^ k ≤ 2 * (1 + x) ^ k := by
+  have h1 : 1 ≤ (1 + x) ^ k := one_le_pow₀ (by linarith)
+  have h2 : x ^ k ≤ (1 + x) ^ k := pow_le_pow_left₀ hx (by linarith) k
+  linarith
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: It turns out the `bound` tactic is quite helpful here:
```suggestion
  have h1 : 1 ≤ (1 + x) ^ k := by bound
  have h2 : x ^ k ≤ (1 + x) ^ k := by bound
  bound
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 10]
```diff
@@ -0,0 +1,184 @@
...
+      linarith
+    calc (1 + x) ^ k ≤ 2 ^ k := h1
+      _ = 2 ^ k * 1 := by rw [mul_one]
+      _ ≤ 2 ^ k * (1 + x ^ k) := by
+        apply mul_le_mul_of_nonneg_left h2 (pow_nonneg (by norm_num) k)
+  · have h1 : 1 + x ≤ 2 * x := by linarith
+    calc (1 + x) ^ k ≤ (2 * x) ^ k := pow_le_pow_left₀ (by linarith) h1 k
+      _ = 2 ^ k * x ^ k := by rw [mul_pow]
+      _ ≤ 2 ^ k * (1 + x ^ k) := by
+        apply mul_le_mul_of_nonneg_left (by linarith [pow_nonneg hx k]) (pow_nonneg (by norm_num) k)
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]:
```suggestion
  rcases le_or_gt x 1 with hx1 | hx1
  · calc (1 + x) ^ k
        ≤ 2 ^ k := by bound
      _ ≤ 2 ^ k * (1 + x ^ k) := by bound
  · calc (1 + x) ^ k
        ≤ (2 * x) ^ k := by bound
      _ = 2 ^ k * x ^ k := by rw [mul_pow]
      _ ≤ 2 ^ k * (1 + x ^ k) := by bound
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 11]
```diff
@@ -0,0 +1,184 @@
...
+theorem isSubpolynomial_iff_eventually_isBigO :
+    IsSubpolynomial l f g ↔ ∀ᶠ k in atTop, IsBigO l f (fun x => (1 + ‖g x‖) ^ k) := by
+  refine ⟨fun ⟨k, hk⟩ ↦ ?_, fun H ↦ H.exists⟩
+  rw [eventually_atTop]
+  use k
+  intro n hkn
+  refine hk.trans_le (fun x ↦ ?_)
+  have h1 : 1 ≤ 1 + ‖g x‖ := le_add_of_nonneg_right (norm_nonneg _)
+  simp only [Real.norm_of_nonneg (pow_nonneg (zero_le_one.trans h1) _)]
+  exact pow_le_pow_right₀ h1 hkn
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: Do you not like
```suggestion
  simp (discharger := positivity) only [Real.norm_of_nonneg]
  bound
```
? If you really prefer you can keep term-mode, but this kind of tactics make the proof simpler to understand and maintain.

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 12]
```diff
@@ -0,0 +1,184 @@
...
+    IsSubpolynomial l f g ↔ ∃ k : ℕ, IsBigO l f (fun x => 1 + ‖g x‖ ^ k) := by
+  constructor
+  · intro ⟨k, hk⟩
+    use k
+    have hbound : IsBigO l (fun x => (1 + ‖g x‖) ^ k) (fun x => 1 + ‖g x‖ ^ k) := by
+      apply IsBigO.of_bound (2 ^ k)
+      filter_upwards with x
+      simp only [Real.norm_eq_abs]
+      rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k)]
+      rw [abs_of_pos (by linarith [pow_nonneg (norm_nonneg (g x)) k] : 0 < 1 + ‖g x‖ ^ k)]
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]:
```suggestion
      simp (discharger := positivity) only [Real.norm_of_nonneg]
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 13]
```diff
@@ -0,0 +1,184 @@
...
+      exact add_one_pow_le_two_pow_mul (norm_nonneg _) k
+    exact hk.trans hbound
+  · intro ⟨k, hk⟩
+    use k
+    have hbound : IsBigO l (fun x => 1 + ‖g x‖ ^ k) (fun x => (1 + ‖g x‖) ^ k) := by
+      apply IsBigO.of_bound 2
+      filter_upwards with x
+      simp only [Real.norm_eq_abs]
+      rw [abs_of_pos (by linarith [pow_nonneg (norm_nonneg (g x)) k] : 0 < 1 + ‖g x‖ ^ k)]
+      rw [abs_of_pos (pow_pos (by linarith [norm_nonneg (g x)]) k)]
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]:
```suggestion
      simp (discharger := positivity) only [Real.norm_of_nonneg]
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 14]
```diff
@@ -0,0 +1,184 @@
...
+      exact one_add_pow_le_two_mul_add_one_pow (norm_nonneg _) k
+    exact hk.trans hbound
+
+/-! ### Uniformity -/
+
+/-- For a finite family of subpolynomial functions, one can choose a uniform degree and constant. -/
+public theorem IsSubpolynomial.uniform {ι : Type*} {s : Finset ι} {l : Filter α}
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]:
```suggestion
theorem IsSubpolynomial.uniform {ι : Type*} {s : Finset ι} {l : Filter α}
```

File: Mathlib/Analysis/Asymptotics/Subpolynomial.lean [hunk 15]
```diff
@@ -0,0 +1,184 @@
...
+  exact hk₁.mul hk₂
+
+/-- Subpolynomial growth is preserved under natural powers. -/
+theorem IsSubpolynomial.pow {f : α → R} (hf : IsSubpolynomial l f g) (n : ℕ) :
+    IsSubpolynomial l (f ^ n) g := by
+  induction n with
+  | zero => simp only [pow_zero]; exact IsSubpolynomial.const 1
+  | succ n ih => simp only [pow_succ]; exact ih.mul hf
+
+/-! ### Equivalence with the old definition -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Asymptotics/Subpolynomial.lean]: This is not very descriptive: please explain what "the old defnition is"

**Comment by 0xTerencePrime** [comment]
Sorry for being MIA these last few months! Things got pretty hectic for me and I just couldn't find the time to address this until now. thank you for your patience, @ADedecker!

In response to your inquiry about the AI: yes, I employed an AI assistant in order to generate docstrings, format boilerplate code, and learn about new techniques like `bound` and `positivity`. The mathematical reasoning and the proofs themselves are my own work; I have gone over everything to verify that they are mathematically valid and conform to contribution standards for Mathlib.

In the latest commits I have applied all of your suggested changes:
- Simplified the two auxiliary lemmas via the `bound` tactic
- Replaced the `abs_of_pos` rewrites via `simp (discharger := positivity) only [Real.norm_of_nonneg]`
- Updated the section header from "Equivalence with the old definition" to the more descriptive `` `O(1 + ‖g‖^k)` ``
- Removed the unnecessary `public` modifier from `IsSubpolynomial.uniform`
- Merged the latest `master` changes

Now all 9 CI checks are passing. Thanks for your patience and fantastic guidance once more!

-awaiting-review
